US05306816
To a suspension of anhydrous zinc chloride (56 mg) in acetonitrile (1.6 ml) cooled to 0° C. was added triethylamine (0.17 ml). After stirring for 10 minutes at 0° C., to the solution were added copper(I) chloride (41 mg), (3R,4R)-4-acetoxy-3-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-2-oxoazetidine (79 mg) and phenyl dithiopropionate (75 mg). The reaction mixture was stirred at 0° C. for 2 hours. The mixture was poured into a stirred mixture of dichloromethane (5 ml) and 1N aqueous hydrochloric acid solution (5 ml). The organic layer was separated, washed with water, aqueous sodium bicarbonate solution and brine, and dried. The solution was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:4, V/V) to afford a mixture (5:1) (77 mg) of (3S,4S)-3-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[(1R)-1-{(phenylthio)thiocarbonyl}ethyl]- 2-oxoazetidine and (3S,4S)-3-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[(1S)-1-{(phenylthio)thiocarbonyl}ethyl]-2-oxoazetidine.

reactant | triethylamine | 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | (3R,4R)-4-acetoxy-3-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-2-oxoazetidine | 79 mg | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | phenyl dithiopropionate | 75 mg | C(CC)(=S)SC1=CC=CC=C1 | C9H10S2
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
solvent | acetonitrile | 1.6 ml | C(C)#N | C2H3N
catalyst | zinc chloride | 56 mg | [Cl-].[Zn+2].[Cl-]
catalyst | copper(I) chloride | 41 mg | [Cu]Cl
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (3S,4S)-3-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[(1R)-1-{(phenylthio)thiocarbonyl}ethyl]- 2-oxoazetidine | 77 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@@H](C)C(=S)SC1=CC=CC=C1)=O | C20H31NO2S2Si
